### PR TITLE
Add Erdős Problem 858 (harmonic mass of weakly primitive sets), link the formal proof

### LINKED ISSUE #983: Erdős Problem 858
### What is the conjecture

https://www.erdosproblems.com/858

  Let $A\subseteq \\{1,\ldots,N\\}$ be such that there is no solution to $at=b$ with $a,b\in A$ and the smallest prime factor of $t$ is $>a$. Estimate the maximum of
$$\frac{1}{\log N}\sum_{n\in A}\frac{1}{n}.$$

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #983.

### What changed
Adds `FormalConjectures/ErdosProblems/858.lean` with `IsAdmissible A` (no `at = b` in `A` with `minFac t > a`) and `M N` (the maximum of `∑_{n ∈ A} 1/n` over admissible `A ⊆ [1, N]`):
- `erdos_858` (`research solved`): `M(N) / log N` converges, i.e. `max_A ∑ 1/n = (c + o(1)) log N` (Chojecki and GPT-5.4 Pro). Linked to plby/lean-proofs `Erdos858.erdos_858` (Codex and GPT-5.6 Sol; 4 Mathlib-only files), which identifies the limit with an explicit constant.
- Sorry'd variants: positivity of the limit (the maximum is bounded away from `0`, Alexander / Erdős–Sárközi–Szemerédi) and the `o(log N)` bound for infinite admissible sets.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos858.erdos_858` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby's admissibility restricts to `t > 1`; for `A ⊆ [1, N]` the two notions agree):

<details>
<summary>Bridge</summary>

```lean
open Filter Real Finset

namespace Bridge858

lemma admissible_iff {N : ℕ} {A : Finset ℕ} (hA : A ⊆ Finset.Icc 1 N) :
    Erdos858.IsAdmissible A ↔ Erdos858Plby.Admissible A := by
  unfold Erdos858.IsAdmissible Erdos858Plby.Admissible
  constructor
  · intro h a ha b hb t _ hb'
    exact h a ha b hb t hb'.symm
  · intro h a ha b hb t hab
    rcases Nat.lt_or_ge 1 t with ht | ht
    · exact h a ha b hb t ht hab.symm
    · interval_cases t
      · -- `t = 0` forces `b = 0 ∉ A`
        exfalso
        have := (Finset.mem_Icc.1 (hA hb)).1
        omega
      · have := (Finset.mem_Icc.1 (hA ha)).1
        simpa using this

lemma M_eq (N : ℕ) : Erdos858.M N = Erdos858Plby.extremalMass N := by
  classical
  unfold Erdos858.M Erdos858Plby.extremalMass
  rw [← Finset.Nonempty.csSup_eq_max']
  congr 1
  ext m
  simp only [Set.mem_ofPred_eq, Finset.mem_coe, Erdos858Plby.candidateMasses,
    Erdos858Plby.candidateFamilies, Finset.mem_image, Finset.mem_filter, Finset.mem_powerset,
    Erdos858Plby.harmonicMass, Erdos858Plby.interval, one_div]
  constructor
  · rintro ⟨A, hA, hadm, rfl⟩
    exact ⟨A, ⟨hA, (admissible_iff hA).1 hadm⟩, rfl⟩
  · rintro ⟨A, ⟨hA, hadm⟩, rfl⟩
    exact ⟨A, hA, (admissible_iff hA).2 hadm, rfl⟩

theorem erdos_858_bridge : type_of% Erdos858.erdos_858 := by
  refine ⟨Erdos858Plby.constant, ?_⟩
  simp only [M_eq]
  exact Erdos858Plby.erdos_858

#print axioms Erdos858Plby.erdos_858
#print axioms erdos_858_bridge

end Bridge858
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«858»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/858.lean [hunk 1]
```diff
@@ -0,0 +1,84 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/858.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
